US07214824B2
32(a): tert-Buyl 4-tert-butyl-3-(cyclopropylmethoxy)phenyl carbonate
Tert-butyl 4-tert-butyl-3-hydroxyphenyl carbonate (1.5 g, 5.6 mmol), cyclopropylmethanol (0.5 mL, 6.2 mmol), triphenylphosphine (1.6 g, 6.2 mmol) and diethyl azodicarboxylate (DEAD) (1.0 mL, 6.2 mmol) were treated in the same procedure described in Example 31(a). The crude residue was applied to a silica gel chromatography column and eluted with a volume mixture of hexane and ethyl acetate (19/1 to 9/1) to furnish 1.42 g (79% yield) of the title compound as a yellow oil.

reactant | Tert-butyl 4-tert-butyl-3-hydroxyphenyl carbonate | 5.6 mmol, 1.5 g | C(OC(C)(C)C)(OC1=CC(=C(C=C1)C(C)(C)C)O)=O | C15H22O4
reactant | cyclopropylmethanol | 6.2 mmol, 0.5 mL | C1(CC1)CO | C4H8O
reactant | triphenylphosphine | 6.2 mmol, 1.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 6.2 mmol, 1.0 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | tert-Buyl 4-tert-butyl-3-(cyclopropylmethoxy)phenyl carbonate | 1.42 g, 79% yield | C(OC(C)(C)C)(OC1=CC(=C(C=C1)C(C)(C)C)OCC1CC1)=O | C19H28O4
